US09375000B2
N-{[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoro-methyl)pyridin-3-yl]methyl}propanamide (0.3 g), benzyltriethylammonium chloride (0.35 g) and potassium permanganate (0.25 g) were added to dichloromethane (20 ml), and the mixture was stirred for 75 hours at room temperature. Upon the completion of the stirring, the reaction mixture was filtered through a short silica gel layer to remove precipitate. The filtrate was distilled off under reduced pressure and the purification was carried out by silica gel column chromatography to obtain N-{[6-{4-[3,5-bis(trifluoromethyl)phenyl]-2-oxo-4-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methyl}propanamide (0.08 g).

reactant | N-{[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoro-methyl)pyridin-3-yl]methyl}propanamide | 0.3 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CNC(CC)=O)C(F)(F)F)(F)F | C23H19F12N3O
reactant | potassium permanganate | 0.25 g | [Mn](=O)(=O)(=O)[O-].[K+]
catalyst | benzyltriethylammonium chloride | 0.35 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-{[6-{4-[3,5-bis(trifluoromethyl)phenyl]-2-oxo-4-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methyl}propanamide | 0.08 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CC(N(C1)C1=CC=C(C(=N1)C(F)(F)F)CNC(CC)=O)=O)C(F)(F)F)(F)F | C23H17F12N3O2
